US07842696B2
TEA (62.57 mg, 062 mmol) followed by benzenesulphonyl chloride (54.6 mg, 0.31 mmol) were added at to 0° C. to biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide (100 mg, 0.31 mmol) in DCM (4 mL). The resulting mixture was stirred at room temperature overnight. Cold water was then added and the product extracted with DCM. The organic layer was separated, washed with 10% HCl solution, saturated NaHCO3 solution and brine, dried over sodium sulphate and concentrated. The resulting residue was purified by column chromatography (using 60-120 mesh silica gel and 30% EtOAc in hexane as eluent) to afford 45 mg (31.4% yield) of biphenyl-4-carboxylicacid {2-[4-benzene sulfonyl-piperazin-1-yl]-2-oxo-ethyl}-amide, LC-MS purity: 98.75%, 1H NMR: (DMSO) δ 8.76 (t, 1H), 7.92 (d, 2H), 7.8-7.6 (m, 9H), 7.54-7.44 (t, 2H), 7.44-7.36 (t, 1H), 4.1 (d, 2H), 3.6 (s, 4H), 3.0-2.86 (d, 4H).

reactant | benzenesulphonyl chloride | 0.31 mmol, 54.6 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 0.31 mmol, 100 mg | O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1 | C19H21N3O2
reactant | water | O | H2O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | biphenyl-4-carboxylicacid {2-[4-benzene sulfonyl-piperazin-1-yl]-2-oxo-ethyl}-amide | 45 mg, 31.4% yield | C1(=CC=CC=C1)S(=O)(=O)N1CCN(CC1)C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C25H25N3O4S
